US05280032
9.5 g of potassium tert-butoxide was added to 92 ml of ethylene glycol. The mixture was heated to 80° C. Thereto was dropwise added, in 3 hours, a solution of 34.7 g of 2-(4-benzyloxyphenyl)oxirane dissolved in 220 ml of dimethyl sulfoxide. The resulting mixture was stirred for 30 minutes at the same temperature. The reaction mixture was cooled and added to a mixture of 1 liter of ice water and 600 ml of ethyl acetate. The resulting mixture was adjusted to pH 7 with 6N hydrochloric acid. The organic layer was separated. The aqueous layer was extracted with 200 ml of ethyl acetate. The extract wa combined with the previously separated organic layer. The combined organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: chloroform/ethanol=10/1) to obtain 25 g of 1-(4-benzyloxyphenyl)-2-(2-hydroxyethoxy)ethanol.

reactant | potassium tert-butoxide | 9.5 g | CC(C)([O-])C.[K+]
reactant | ethylene glycol | 92 ml | C(CO)O | C2H6O2
reactant | 2-(4-benzyloxyphenyl)oxirane | 34.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1OC1 | C15H14O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dimethyl sulfoxide | 220 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-benzyloxyphenyl)-2-(2-hydroxyethoxy)ethanol | 25 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(COCCO)O | C17H20O4
